US04168313
Triethylamine (20 ml) and 3-bromophthalide (21.3 g) were added to a suspension of 2(3'-trifluormethylanilino)-nicotinic acid (28,2 g in 500 ml of acetone). The mixture was refluxed during 4 hours. The obtained greenish yellow suspension was poured into 6000 ml of water, which was previously heated at 50° C. The stirred reaction mixture was cooled to 5° C., and the formed precipitate was filtered and washed with cool water. Yield: 52% (20.5 g) of phthalidyl 2-(3'-trifluormethylanilino)-pyridin-3-carboxylate, m.p: 162°-164° C.

reactant | Triethylamine | 20 ml | C(C)N(CC)CC | C6H15N
reactant | 3-bromophthalide | 21.3 g | BrC1OC(=O)C2=CC=CC=C12 | C8H5BrO2
reactant | 2(3'-trifluormethylanilino)-nicotinic acid | 500 ml, 28,2 g | FC(C=1C=C(NC2=C(C(=O)O)C=CC=N2)C=CC1)(F)F | C13H9F3N2O2
solvent | water | 6000 ml | O | H2O
product | phthalidyl 2-(3'-trifluormethylanilino)-pyridin-3-carboxylate | 20.5 g, Yield: 52% | FC(C=1C=C(NC2=NC=CC=C2C(=O)OC2OC(=O)C3=CC=CC=C23)C=CC1)(F)F | C21H13F3N2O4
